US06506747B1
1-(4-Nitrophenyl)-3-(3-pyridinyl)-5-ethylpyrazole (18.0 g, 61.2 mmol) was dissolved in dioxane (200 mL) and MeOH (200 mL). The solution was treated with ammonium formate (38.6 g, 612 mmol) and 5% Pd/C (1.8 g) at room temperature for 6 hr. It was then filtered through a pad of diatomaceous earth and the cake was washed with CH3CN. The filtrate was concentrated and the residue was treated with water (200 mL). The resulting slurry was stirred at room temperature for 3 hr, and collected by filtration. The solid was washed with water and dried in an oven under house vacuum to give 1-(4-aminophenyl)-3-(3-pyridinyl)-5-ethylpyrazole (15.5 g, 95%). %). 1H NMR (CDCl3, 400 MHz) 9.05 (s, 1H), 8.53 (d, J=4.7 Hz, 1H), 8.16 (d, J=7.2 Hz, 1H), 7.30 (m, 1H), 7.23, 6.75 (ABq, J=8.1 Hz, 4H) 6.54 (s, 1H), 3.83 (bs, 2H), 2.63 (q, J=7.6 Hz, 2H), 1.25 (t, J=7.6 Hz, 3H).

reactant | 1-(4-Nitrophenyl)-3-(3-pyridinyl)-5-ethylpyrazole | 61.2 mmol, 18.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1CC)C=1C=NC=CC1 | C16H14N4O2
reactant | ammonium formate | 612 mmol, 38.6 g | C(=O)[O-].[NH4+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd/C | 1.8 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-(3-pyridinyl)-5-ethylpyrazole | 15.5 g, 95% | NC1=CC=C(C=C1)N1N=C(C=C1CC)C=1C=NC=CC1 | C16H16N4
